US04110337
(b) 2-Methyl-(2'-nitro-4'-methoxyanilino)-propionic acid
47 g (mol/5 ) of 2-nitro-4-methoxy-(2'-methyl-2'-cyanoethyl)-aniline, 36 ml of H2O, 36 ml of acetic acid and 36 ml of H2SO4 are heated under reflux for 25 minutes. The reaction mixture is poured into iced water and is made alkaline with an Na2CO3 solution. 4.5 G of solid are eliminated by filtration. The solution is washed first of all with ethyl acetate and then acidified. The formed crystals are water extracted. Yield: 23.8 g = 47.7% (theoretical yield = 50.8 g) of a deep red solid of melting point 119°-121° C. After recrystallisation (ethylacetate plus decoloring carbon) a red solid, m.p. = 124°-126° C. is obtained.

reactant | 2-nitro-4-methoxy-(2'-methyl-2'-cyanoethyl)-aniline | 47 g | [N+](=O)([O-])C1=C(NCC(C#N)C)C=CC(=C1)OC | C11H13N3O3
reactant | H2SO4 | 36 ml | OS(=O)(=O)O | H2O4S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | H2O | 36 ml | O | H2O
product | 2-Methyl-(2'-nitro-4'-methoxyanilino)-propionic acid | CC(C(=O)O)(C)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C11H14N2O5
